US04436748
To a solution of 5.0 g of 2-n-butyl-6,7-dichloro-2,3-dichloro-3-hydroxy-5-methoxybenzo[b]thiophene in 25 ml of glacial acetic acid is added 6.5 ml of boron trifluoride etherate, with stirring. The mixture is heated on a steam bath until dissolution occurs and is stirred at room temperature for one hour. A mixture of 20 ml of 10% sodium hydroxide solution and 50 mg of ice is added followed by 50% sodium hydroxide solution to pH 7. The mixture is extracted with 3×100 ml-portions of ether. The ether extracts are washed with water, dried and concentrated to give an oil. The oil is chromatographed on 100 g silica gel column using a 9:1 hexane dichloromethane system as the eluant. Evaporation of the eluant gives 2.3 g of 6,7-dichloro-2-n-butyl-5-methoxybenzo[b]thiophene or an oil.

reactant | 2-n-butyl-6,7-dichloro-2,3-dichloro-3-hydroxy-5-methoxybenzo[b]thiophene | 5.0 g | C(CCC)C1(C(C2=C(S1)C(=C(C(=C2)OC)Cl)Cl)(O)Cl)Cl | C13H14Cl4O2S
reactant | boron trifluoride etherate | 6.5 ml | B(F)(F)F.CCOCC
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 6,7-dichloro-2-n-butyl-5-methoxybenzo[b]thiophene | 2.3 g | ClC=1C(=CC2=C(SC(=C2)CCCC)C1Cl)OC | C13H14Cl2OS
